US06043254
(b) 1-methyl-4-(4-nitro-phenyl)-imidazole
Prepared by reacting 4-(4-nitro-phenyl)-imidazole in DMSO with potassium-tert.butoxide at 0° C. and then with methyliodide at 20-25° C.

reactant | 4-(4-nitro-phenyl)-imidazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CNC1 | C9H7N3O2
reactant | potassium tert.butoxide | [K].CC(C)([O-])C
reactant | methyliodide | CI | CH3I
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-methyl-4-(4-nitro-phenyl)-imidazole | CN1C=NC(=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
